US05108485
Preparation of 1-Ethyl-4 (4-isopropyl-4-methyl 5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylic acid
A mixture of 4-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-1-ethyl-2-methyl-5-benzimidazolecarboxylic acid (4.09 g, 11.4 mmol), 10N sodium hydroxide (6.8 mL, 68.0 mmol) and water is stirred for 2 hours at reflux temperature, cooled, acidified to pH 4 with hydrochloric acid and filtered. The filter cake is recrystallized from acetonitrile to yield the title product as a white powder (1.10 g, 28.2%), mp 250°-256° C. (dec).

reactant | 4-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-1-ethyl-2-methyl-5-benzimidazolecarboxylic acid | 11.4 mmol, 4.09 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C=CC=2N(C(=NC21)C)CC)C(=O)O | C18H24N4O4
reactant | sodium hydroxide | 68.0 mmol, 10N, 6.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-Ethyl-4 (4-isopropyl-4-methyl 5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylic acid | 1.10 g, 28.2% | C(C)N1C(=NC2=C1C=CC(=C2C=2NC(C(N2)(C)C(C)C)=O)C(=O)O)C | C18H22N4O3
